US09388176B2
Methyl-6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylate
A mixture of 2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (892 mg, 4.92 mmol), methyl-6-bromopicolinate (1.06 g, 4.92 mmol), Pd(OAc)2 (110 mg, 0.492 mmol), rac-BINAP (306 mg, 0.492 mmol), and Cs2CO3 (3.85 g, 11.81 mmol) in toluene (45 ml) was heated at 100° C. for 4.5 hours. The insolubles were filtered off and washed with ethyl acetate. The filtrate and washing were combined and concentrated. Elution through a flash column (silica gel 60, 230-400 mesh, 1:1 hexanes:EtOAc) gave the title compound as a viscous yellow oil which gradually solidified on standing (945 mg, 61%).

reactant | 2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 4.92 mmol, 892 mg | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | methyl-6-bromopicolinate | 4.92 mmol, 1.06 g | COC(C1=NC(=CC=C1)Br)=O | C7H6BrNO2
reactant | rac-BINAP | 0.492 mmol, 306 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 11.81 mmol, 3.85 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.492 mmol, 110 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl-6-[2-(methylthio)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl]pyridine-2-carboxylate | COC(=O)C1=NC(=CC=C1)N1CC2=C(N=C(N=C2)SC)CC1 | C15H16N4O2S
